US07109200B2
1-[4-Benzyloxycarbonylamino-1-(4-pyridyl)-4-piperidylmethyl]-4-(6-chloronaphthalene-2-sulfonyl)-2-piperazinone
A 4N hydrochloric acid solution in ethyl acetate (50 ml) and ethanol (10 ml) was added to 1-[4-benzyloxycarbonylamino-1-(tert-butoxycarbonyl)-4-piperidylmethyl]-4-(6-chloronaphthalene-2-sulfonyl)-2-piperazinone (7.42 g), and the mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure, 4-chloropyridine hydrochloride (1.80 g), triethylamine(6.97 ml) and ethanol (100 ml) were added to the residue, and the mixture was heated at 150° C. for 5 hours in a sealed tube. After cooling, the reaction mixture was diluted with ethyl acetate, and washed with water. The ethyl acetate layer was dried with magnesium sulfate, and concentrated under reduced pressure. The residue was purified by basic silica gel chromatography (ethyl acetate-ethyl acetate/methanol=8/1) to obtain the title compound (3.58 g, 55%) as powders.

reactant | hydrochloric acid | 4N | Cl | ClH
reactant | 1-[4-benzyloxycarbonylamino-1-(tert-butoxycarbonyl)-4-piperidylmethyl]-4-(6-chloronaphthalene-2-sulfonyl)-2-piperazinone | 7.42 g | C(C1=CC=CC=C1)OC(=O)NC1(CCN(CC1)C(=O)OC(C)(C)C)CN1C(CN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)=O | C33H39ClN4O7S
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-[4-Benzyloxycarbonylamino-1-(4-pyridyl)-4-piperidylmethyl]-4-(6-chloronaphthalene-2-sulfonyl)-2-piperazinone | 3.58 g, 55% | C(C1=CC=CC=C1)OC(=O)NC1(CCN(CC1)C1=CC=NC=C1)CN1C(CN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)=O | C33H34ClN5O5S
